US04290954
To 15 ml of a dimethyl formamide suspension solution containing 1.0 g of 6-methyl-1,2,3,4-tetrahydro-9-oxo-xanthene-2-carboxylic acid amide was amide was added dropwise 1.19 g of thionyl chloride at 0° C., and the mixture was stirred for 30 minutes. The resulting mixture was then poured into iced water and decomposed. The separated powder was recrystallized from acetone to obtain 0.40 g (yield: 41%) of 6-methyl-1,2,3,4-tetrahydro-9-oxo-xanthene-2-carbonitrile as a white powder having a melting point of 176° to 178° C.

reactant | dimethyl formamide | 15 ml | CN(C=O)C | C3H7NO
reactant | 6-methyl-1,2,3,4-tetrahydro-9-oxo-xanthene-2-carboxylic acid amide | 1.0 g | CC=1C=C2OC=3CCC(CC3C(C2=CC1)=O)C(=O)N | C15H15NO3
reactant | thionyl chloride | 1.19 g | S(=O)(Cl)Cl | Cl2OS
solvent | water | O | H2O
product | 6-methyl-1,2,3,4-tetrahydro-9-oxo-xanthene-2-carbonitrile | 0.40 g, yield: 41% | CC=1C=C2OC=3CCC(CC3C(C2=CC1)=O)C#N | C15H13NO2
